US04698345
(a) Diethyl 6-formyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate
A mixture of diethyl 6-methyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate (19 g), selenium dioxide (20.99 g), and glacial acetic acid (950 ml) was heated on a steam bath with stirring for 2 hours. The resulting suspension was cooled, filtered and poured into brine (8 l). The resulting precipitate was filtered off and the crude product dissolved in CH2Cl2, filtered and evaporated to dryness to give 20.5 g of the crude product (20.5 g). This product was chromatographed using 25:1 CH2Cl2 : ethyl acetate as the solvent, yielding 13.95 g of required product (71%).

reactant | diethyl 6-methyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate | 19 g | CC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=O)CCC)C(=O)OCC | C22H23NO6
reactant | selenium dioxide | 20.99 g | [Se](=O)=O | O2Se
solvent | acetic acid | 950 ml | C(C)(=O)O | C2H4O2
product | Diethyl 6-formyl-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate | 13.95 g, 71% | C(=O)C1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=O)CCC)C(=O)OCC | C22H21NO7
